US04255432
A solution of 23 g 1-benzyl-4-hydroxy-4-methylaminomethylpiperidine and 250 ml dichloromethane is mixed with 100 ml of a 15% solution of phosgene in toluene. Evaporation of solvent gives a residue which is treated with 300 ml dichloromethane and 300 ml aqueous sodium bicarbonate. Separation of the dichloromethane layer followed by evaporation gives 20 g 3-methyl-8-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one, mp 137°-138°.

reactant | 1-benzyl-4-hydroxy-4-methylaminomethylpiperidine | 23 g | C(C1=CC=CC=C1)N1CCC(CC1)(CNC)O | C14H22N2O
reactant | dichloromethane | 250 ml | ClCCl | CH2Cl2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
reactant | sodium bicarbonate | 300 ml | C([O-])(O)=O.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-methyl-8-benzyl-1-oxa-3,8-diazaspiro[4.5]decan-2-one | 20 g | CN1C(OC2(C1)CCN(CC2)CC2=CC=CC=C2)=O | C15H20N2O2
